US05081123
b. 3-Ethoxalylamino-4-nitro-1,8-naphthalenedicarboxylic anhydride
Powdered potassium nitrate (0.51 g, 5 mmol) was added to a stirred solution of 3-ethoxalylamino-1,8-naphthalenedicarboxylic anhydride (1.57 g, 5 mmol) in 15 ml of conc. sulfuric acid at 0° C. Stirring was continued for 2 h at the same temperature, then the reaction mixture was poured into 150 ml of ice-water. The separated yellow solid was isolated by filtration and washed with water ethanol and ether. Trituration with a small amount of ethyl acetate afforded 1.38 g (77%) of the title compound. M.p. 221°-222° C.; 1H-NMR CDCl3 +DMSO-d6): 1.43 (t,J=7Hz, 3H, CH3), 4.37 (q,J=7Hz, 2H, CH2), 7.70-8.60 (m, 3H, ArH), 8.82 (s, 1H, H-2), 11.3 (broad s, 1H, NH).

reactant | potassium nitrate | 5 mmol, 0.51 g | [N+](=O)([O-])[O-].[K+]
reactant | 3-ethoxalylamino-1,8-naphthalenedicarboxylic anhydride | 5 mmol, 1.57 g | C(=O)(C(=O)OCC)NC=1C=C2C3=C(C=CC=C3C1)C(=O)OC2=O | C16H11NO6
solvent | sulfuric acid | 15 ml | S(O)(O)(=O)=O | H2O4S
product | 3-Ethoxalylamino-4-nitro-1,8-naphthalenedicarboxylic anhydride | 1.38 g, 77% | C(=O)(C(=O)OCC)NC=1C=C2C3=C(C=CC=C3C1[N+](=O)[O-])C(=O)OC2=O | C16H10N2O8
